US06890947B2
In analogy to the procedure described in example 44, rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester (preparation 5) was reacted with methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester to give rac-2-ethoxy-3-{2-methyl-1-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1H-indol-5-yl}-propionic acid as light yellow viscous oil.

reactant | rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=C(NC2=CC1)C)OCC)=O | C16H21NO3
reactant | methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C | C13H15NO4S
product | rac-2-ethoxy-3-{2-methyl-1-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1H-indol-5-yl}-propionic acid | C(C)OC(C(=O)O)CC=1C=C2C=C(N(C2=CC1)CCC=1N=C(OC1C)C1=CC=CC=C1)C | C26H28N2O4
